data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1782,"C=CCOC1OC(COC(C)=O)C2C(C1OC(C)=O)[OH+:1][C:2](C)(C)[O:3]2.CC(=O)[O-].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6894,"CCO[C:1](C(C)C)=[O:2].CCO[C:3](=[C:4](C)C)[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5709,"CC(C)(C)OC(=O)C(F)(F)F.CCCC(CO)CC(O)=[O:1].O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8607,"C[C:1]1(C)C[OH+:2]1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6324,"C[Si-](C)(C)(F)C[C:1]#[C:2]CCCN1C(C2=CC=CC=C2)C[C:3](=[O:4])[CH:5]=[CH:6]1|((1, 2), 6);((6, 5), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7712,"CC(C(=O)O[O:1][H:2])C(O)C1=CC=CC=C1.O.O=C1OCC(CC2=CC=CC=C2)[N-:3]1.[Li+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1781,"C=CC([O-])(Cl)[S+:1](CC)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9555,"CC(=O)O.COC1=C(C)C=C2OC(C(=O)O[C:1](C)=[O:2])C(C)([O-:3])C2=C1.[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1485,"COC1=C([NH+:1](N=O)[H:2])C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)F.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5542,"NC1=C2NC(=O)N(C3OC(CO)C(O)C3O)C2=N[CH:1]=[N+:2]1CC1=CC(Br)=C(O)C(Br)=C1.[Br-].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9353,"C[C+:1](C)C.Cl.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,9332,"C[S:1](O)=[NH:2]|((1, 2), 2)"
train,pmechdb_split_0,0,4045,"CCNC(C)(OCC)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6294,"CCO[C:1]1([Cl:2])C=C[N-:3][CH:4]=[CH:5]1|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6125,"C=C[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[S+:5](=O)O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,2723,"COC1=C[CH:1]=[CH:2]O1.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,829,"CCO.CCOC(=O)C[C:1](NNC(=S)[NH-:2])=[O:3].[Na+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8729,"CCC(C=O)(CCCNC(=O)CCl)CCC(=O)CC1=C(N[C:1](=[OH+:2])[O:3][C:4](C)(C)C)C=CC=C1.O=C([O-])C(F)(F)F|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,697,"CCCCCC1CCC[CH:1]([O:2]S(=O)(=O)C2=CC=C(C)C=C2)C1OC(C)=[O:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3554,"CC(C)[CH:1]=[O+:2][Mg-:3]([Cl])[CH:4](C)[CH2:5][H:6]|((3, 4), 5);((5, 6), 1);((1, 2), 2)"
train,pmechdb_split_0,0,681,"C1=CC=C(C=CC=[N+:1](CC2=CC=CC=C2)[H:2])C=C1.CO.NCC1=CC=CC=C1.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5072,"CN1CCO[C:1]1=[O:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4963,"CC(=O)OC(C)([O-])[O+:1](C1=CC=CC=C1)[H:2].CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10104,"COC1=C(Br)C=CC2=C(OC(C)C)C=C(C(OOC(C3=CC(Cl)=CC=C3)=[O:1])[O:2][H:3])C=C21|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7226,"C[S:1]C.[Br:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3533,"CC(=O)ON1C2(C)CCC1(C)C[NH+:1]=[C:2]([O:3][H:4])C2.CC1=CC(C)=C(S(=O)(=O)[O-])C(C)=C1.CC[N:5](CC)CC|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7250,"CC(C)(C)[Si:1](C)(C)OS(=O)(=O)C(F)(F)F.CC1CC=CC([O-:2])=C1C(=O)OCC[Si](C)(C)C.[H][H].[Na+]|(2, 1)"
train,pmechdb_split_0,0,1046,"CCCCC(CSC1=CC=CC=C1)[O-:1].CC[O:2][H:3].[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4329,"[Br-:1].[CH2:2]=[NH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3806,"COC(=O)C12CCC(C(O)C(C)C1)[C:1]2=[O:2].C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4336,"CCC(=O)C1=C([CH:1]=[O:2])C=CC=C1.N#[C-:3].[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7375,"CC(=[C+]CC(CCC1=CC=CC=C1)[O][Ti]([Cl])([Cl])[Cl])[Si:1](C)(C)C.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,9992,"C[CH+:1]C.N#CC1=C[CH:2]=[CH:3]O1|((2, 3), 1)"
train,pmechdb_split_0,0,6699,"CC(=O)OCC1OC(OC(C)=[O:1])C(OC(C)=O)C(OC(C)=O)C1OC(C)=O.F[B:2](F)F.OC1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,1640,"CC1=CC=C[C:1]([H:2])=[C:3]1[Cl:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7675,"CO[C:1](N)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1772,"CO[C:1]1=[C:2]2C=CC=C[C:3]2=[CH:4]C=C1.C[C+:5]=O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,7884,"CN(C)[C:1](OCC[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9525,"CC(=O)O[B-:1](OC(C)=O)(OC(C)=O)[H:2].CC(=O)[O-].O=C(OC1CC[C:3](=[N+:4]2CCN(C3=CC=CC=C3)CC2)CC1)C1=CC=CC=C1.[Na+]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1097,"C1CC[CH:1]2C(C1)[Br+:2]2.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4832,"CC#[C-:1].C[C:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5967,"O=C(Cl)[C:1]([O+]=C1C=C(O)CC1)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5051,"C1=CC=C(C[OH+:1][H:2])C=C1.CON1C(=O)C2(CC([N:3]=[C:4](OCC3=CC=CC=C3)[O-:5])C3COC2C(=O)C3)C2=C1C=CC=C2|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5125,"C1=CC=CC=C1.C1C[NH:1]CCO1.O=C1CCC[C:2](=[N+:3]2CCOCC2)[CH:4]1[H:5].[OH-]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,1891,"CCNC(CCOCC)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9646,"CC(C)[C:1]([CH2:2][H:3])=[O+:4][Li-][N:5](C(C)C)C(C)C|(5, 3);((3, 2), 1);((1, 4), 4)"
